US05773530
To a solution of 3-[2-(2-carbamoylmethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (2.15 g) and pyridine (2.1 ml) in dichloromethane (25 ml) was added dropwise trifluoroacetic anhydride (1.1 ml) at 0° C. under nitrogen atmosphere. The reaction mixture was allowed to warm to room temperature and stirred for 3 hours. The resultant was poured into ethyl acetate (500 ml), washed in turn with water (100 ml×2), saturated sodium hydrogen carbonate in water (50 ml×2), 1N-aqueous hydrochloric acid (50 ml×2), brine (100 ml), saturated sodium hydrogen carbonate in water (50 ml×2) and brine (100 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (200 ml) eluting in turn with 3% and 5% ethyl acetate in dichloromethane. Fractions containing desired product were collected. Evaporation of the solvent gave a residue, which was recrystallized from a mixture of dichloromethane and n-hexane to give 3-[2-(2-cyanomethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.28 g).

reactant | 3-[2-(2-carbamoylmethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 2.15 g | C(N)(=O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H23N5O2
reactant | pyridine | 2.1 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 1.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-[2-(2-cyanomethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.28 g | C(#N)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H21N5O
